US07064142B2
The intermediate in Reference Example 5, t-butyl N-[(1S)-2-(4-fluorophenyl)-1-methyl-2-oxoethyl]carbamate and 2-methyl-2-propanesulfinamide were condensed in the presence of a dehydrating agent to give t-butyl N-[(1S)-2-[(t-butylsulfinyl)imino]-2-(4-fluorophenyl)-1-methylethyl]carbamate. 1.0M trimethylaluminum-hexane solution (0.43 mL) was added to the solution of said sulfinylimine compound (80 mg) in toluene (2 mL) at −78° C., and the mixture was stirred for 5 minutes. The obtained solution was dropwise added slowly to 2-fluoro-4-pyridyllithium solution (prepared by the reaction of 4-fluoro-2-bromopyridine (114 mg) and 1.56M butyllithium-hexane solution (0.46 mL) in diethyl ether solvent (3 mL) at −78° C.) at −78° C. Thereafter tetrahydrofuran (3 mL) was added to the reaction mixture, and then the reaction mixture was stirred at −78° C. for 2.5 hours. Saturated sodium chloride aqueous solution was added to the reaction mixture, and temperature of the reaction mixture was raised to room temperature. The obtained reaction mixture was filtered through celite, and then the organic layer of filtrate was dried over anhydrous magnesium sulfate. Magnesium sulfate was removed by filtration, and then the organic solvent was evaporated in vacuo. The obtained residue was purified by silica gel column chromatography (C-300; hexane:ethyl acetate=2:1) to give the optical active t-butyl N-[(1S)-2-[(t-butylsulfinyl)amino]-2-(4-fluorophenyl)-2-(2-fluoro-4-pyridyl)-1-methylethyl]carbamate (49 mg). The product was treated with 4N hydrogen chloride-dioxane solution to give the optical active title diamine (31 mg).

reactant | t-butyl N-[(1S)-2-(4-fluorophenyl)-1-methyl-2-oxoethyl]carbamate | FC1=CC=C(C=C1)C([C@H](C)NC(OC(C)(C)C)=O)=O | C14H18FNO3
reactant | 2-methyl-2-propanesulfinamide | CC(C)(C)S(=O)N | C4H11NOS
product | t-butyl N-[(1S)-2-[(t-butylsulfinyl)imino]-2-(4-fluorophenyl)-1-methylethyl]carbamate | C(C)(C)(C)S(=O)N=C([C@H](C)NC(OC(C)(C)C)=O)C1=CC=C(C=C1)F | C18H27FN2O3S
